US08541591B2
N-hexadecylimidazole was synthesized from imidazole and hexadecyl bromide with reference to the document (T. G. Traylor et al., J. Am. Chem. Soc., 115, 4808-4813 (1993)).

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | hexadecyl bromide | C(CCCCCCCCCCCCCCC)Br | C16H33Br
product | N-hexadecylimidazole | C(CCCCCCCCCCCCCCC)N1C=NC=C1 | C19H36N2
